US04743601
3-Bromo-N-(2-hydroxypropyl)-2-methyl-4-quinolinamine
Bromine (32 g) was added dropwise to a solution of 44 g of N-(2-hydroxypropyl)-2-methyl-4-quinolinamine in 600 ml of acetic acid. The solution was stirred for 1 hour and the HBr salt was filtered and washed with a small amount of acetic acid. It was then dissolved in 500 ml of water and an aqueous KOH solution was added, whereupon the free base precipitated. It was filtered and recrystallized from isopropanol. The yield was 22 g, mp 147°-149° C.

reactant | Bromine | 32 g | BrBr | Br2
reactant | N-(2-hydroxypropyl)-2-methyl-4-quinolinamine | 44 g | OC(CNC1=CC(=NC2=CC=CC=C12)C)C | C13H16N2O
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-N-(2-hydroxypropyl)-2-methyl-4-quinolinamine | BrC=1C(=NC2=CC=CC=C2C1NCC(C)O)C | C13H15BrN2O
